Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been fighting this desire to uh...hurt 
myself...potentially kill myself"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ homeless male with history of depression, 
alcohol use disorder, suspected korsakoff syndrome, PMHx notable 
for Atrial fibrillation, HTN, CAD with CABG ___ years ago who 
presents with suicidal ideation in the setting of homelessness, 
estrangement from his ___ year old son, and medical problems. 

The patient describes having chronic impulsive suicidal thoughts 
of hurting himself. He is unable to linearly describe how he 
presented to the hospital, last recounting that he stayed at a 
motel in ___] two days ago, did not 
know where he stayed last night, and was unable to clearly 
describe what he was doing when he last had his intrusive 
suicidal thoughts earlier today. He states he has been staying 
in hotels/motels for ___ years. His last motel was the "___ 
___" in ___, ___. He stayed there 2 nights 
ago. He is unable to tell me where he stayed last night; he 
takes awhile, then states that he took a train to get from ___ 
___ to ___. He is unable to linearly recount what 
occurred earlier that caused him to present to ___ ED. He 
states, "I guess I must have been wandering around downtown" 
when he started to have suicidal thoughts, but then later states 
he was in ___, then states he was in the ___ area 
when the suicidal thoughts were occurring. 

He explains that he gets "hijacked by these weird suicidal 
thoughts," which have been occurring for ___ years, for 
approximately ___ days/week. He believes that it is because he 
is homeless, is estranged from his family, and has still not 
fully processed his mothers death, stating that his siblings 
never told him about her death. 

He explains he's "had it" with these thoughts. He clarifies that 
he does not want to kill himself but that he does not want to 
live like this having recurring suicidal thoughts. He describes 
feeling very distressed that he is having these thoughts, noting 
that he is spending a significant amount of time thinking of 
ways to kill himself that would not involve traumatizing others 
[such as not wanting "kids building sandcastles on the shore to 
see my bloated body" if he were to drown himself in the water]. 
At the moment, he denies having active thoughts of killing 
himself. 

He endorses drinking only 2 beers earlier today prior to 
presenting to the ED. He states he spends his time wandering the 
streets, doing crossword puzzles on park benches. He explains he 
takes Zoloft from his PCP, ___, and takes it 
everyday. He does not have a current psychiatrist and states he
has not seen one since he was last psychiatrically hospitalized. 


He denies AH. He denies VH. He denies overt paranoia. 
 
Past Medical History:
Atrial fibrillation s/p DCCV
CAD s/p CABG 
Hypertension
DMII
Alcohol abuse
Anxiety
Depression
Insomnia
Asthma
L shoulder cuff repair
R knee replacement
Bilat knee scopes
Chest lipoma removed age ___
Tonsillectomy
 
Social History:
___
Family History:
Mother: depression
Son: ASD
 
Physical Exam:
EXAM:  
*VS:  BP: 113/94   HR: 90   temp: 96.0    resp: 18  O2 sat: 97%
RA   
   
Neurological:   
 *station and gait: not assessed
 *tone and strength: moves all extremities antigravity
 cranial nerves:  CN2-12 grossly intact
 abnormal movements:  not observed
 frontal release signs: not observed 

Mental Status: 
 *Appearance:  Obese man appears stated age, wearing hospital 
gown, fair grooming, lying in hospital bed 
 Behavior: cooperative, appropriate eye contact, no PMR/PMA, 
does not appear to respond to internal stimuli 
 *Speech: Normal rate, rhythm, and volume 
 *Mood and Affect: "a little flat"/ euthymic, jovial, mood 
incongruent
 *Thought process / *associations: somewhat disorganized, but 
still coherent / Intact  
 *Thought Content: SI as above, does not endorse HI, denies AVH 
or delusions.  
 *Judgment and Insight:  poor/poor

Cognition:  
 Wakefulness/alertness: Alert and awake 
 *Attention (digit span, MOYB): Able to perform MOTYb 
 *Orientation: ___ off by 3 days, ___
Oriented to self 
 Executive function (go-no go, Luria, trails, FAS): 
 *Memory:   ___ registration, ___ short-term recall, ___ with 
categorical cues
 *Fund of knowledge:  ___, play by ___, 
___ cow...Hamlet"
 Calculations:   7 quarters = $1.75
 Abstraction:  "The grass is greener on the other side" = 
"You're looking at your neighbor's life and it's better than 
yours"
 Visuospatial:  not assessed
 *Language: Fluent without paraphrasic errors 

 
Pertinent Results:
WBC-10.1* RBC-5.30 Hgb-15.1 Hct-47.7 MCV-90 MCH-28.5 MCHC-31.7* 
RDW-14.0 RDWSD-45.9 Plt ___
Neuts-70.1 Lymphs-17.8* Monos-9.9 Eos-1.4 Baso-0.3 Im ___ 
AbsNeut-7.05* AbsLymp-1.79 AbsMono-1.00* AbsEos-0.14 
AbsBaso-0.03
Plt ___
Glucose-246* UreaN-32* Creat-1.2 Na-138 K-5.2 Cl-98 HCO3-27 
AnGap-13
Glucose-141* UreaN-46* Creat-1.5* Na-137 K-4.3 Cl-93* HCO3-25 
AnGap-19*
ALT-26 AST-15 AlkPhos-107
GGT-76*
Calcium-8.8 Phos-3.8 Mg-2.1
%HbA1c-7.0* eAG-154*
ASA-NEG Ethanol-33* Acetmnp-NEG Tricycl-NEG
Creat-1.4*
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
The patient is a a ___ undomiciled, divorced and widowed 
white male with a psychiatric history notable for chronic 
suicidality without attempts, depression, anxiety, alcohol use 
disorder, and a medical history notable for possible ___ 
syndrome, atrial fibrillation, HTN, DM, and CAD s/p 3-vessel 
CABG who self-presented to the ___ ED with worsening suicidal 
thoughts and a plan to drown himself. The patient reports being 
estranged from all of his family members including his son. He 
also reports a "lack of motivation" for the past ___ years that 
he believes underlies his chronic homelessness.
.
Diagnostically, the patient's chronic suicidality, depression, 
neurocognitive impairment (confirmed with testing in chart), 
lack of motivation, and fractured relationships all appear to be 
consistent with the long term effects of a chronic alcohol use 
disorder. The patient endorses drinking ___ drinks per day on 
___ nights per week but acknowledges that his alcohol use has 
been heavier in the past. The patient's severed family 
relationships, combined with his lack of insight into why his 
family relationships have ended, may also suggest a cluster B 
personality disorder. However, it is most parsimonious to 
attribute his relationship difficulties to the effects of his 
alcohol use disorder. 
.
Given the chronic and likely irreversible nature of the 
patient's neurocognitive symptoms, treatment options for this 
patient are limited. While the patient was in the hospital he 
was encouraged to cease alcohol use completely and consider 
going to AA in order to gain more social support around 
abstaining from alcohol. The patient's Zoloft was also increased 
from 100 mg PO daily on admission to 150 mg PO daily on 
discharge. However, the patient has not seemed to derive major 
benefit from antidepressant medication in the past, and it is 
likely that the most important intervention will be abstaining 
from alcohol.
.
The patient denied active suicidal ideation throughout his 
hospitalization, including on his day of discharge. The patient 
is strongly recommended to abstain completely from alcohol in 
the future to address his depression, his neurocognitive 
symptoms, his lack of motivation, and his social isolation.
.
3) SUBSTANCE USE DISORDER
#) Upon admission, the patient had a BAL of .33 and endorsed 
drinking ___ drinks per day on ___ days per week. He has a 
documented neurocognitive disorder. Diagnostically, the 
patient's neurocognitive and psychiatric symptoms are most 
likely attributable to a chronic alcohol use disorder. The 
patient showed no signs or symptoms of alcohol withdrawal during 
his hospitalization. He was encouraged to stay abstinent, to 
attend AA meetings, and given multivitamin 1 tab PO daily, 
thiamine 100 mg PO daily, cyanocobalamin 1000 mcg PO daily. Upon 
discharge, the patient said he would seriously consider 
abstaining from alcohol and said he was open to attending AA. As 
mentioned above, the patient's psychiatric and neurocognitive 
symptoms are likely a result of his long-term alcohol use 
disorder. We encouraged the patient to abstain from alcohol and 
to attend AA meetings, including those available on the unit. He 
should follow up with his primary care doctor and consider 
resuming naltrexone to increase the likelihood that he will be 
able to stay abstinent.
.
4) MEDICAL
#) Hyperlipidemia: Home atorvastatin 20 mg PO Daily
#) DM: ___ was consulted and recommended that the patient's 
home metformin by increased from 500 bid to ___ bid. They also 
recommended starting glipizide 5 mg XL. The patient's HA1c was 
7.0, implying that his diabetes is reasonably well controlled; 
___ recommended dilated eye exam upon discharge.
#) HTN: Home Lisinopril 40 mg PO Daily
#) ___ venous stasis: Negative ___ ultrasounds; Home Furosemide 60 
mg PO Daily
#) Traumatic ulcer to R ___ toe: Would obtained during stress 
test. Wound care consulted.
#) Afib: Admission EKG shows sinus rhythm; Home metoprolol 
tartrate 25 mg
#) CAD: Home Aspirin 325 mg PO Daily
#) Asthma vs COPD: Albuterol inhaler 2 puff Q6H PRN

5) PSYCHOSOCIAL
#) Groups/Milieu: The patient was encouraged to participate in 
various groups and milieu therapy opportunities offered by the 
unit, and the patient declined to attend. The patient was often 
seen in the milieu and was friendly and cooperative. He was also 
found in his room reading and doing crossword puzzles.
.
#) Collateral information and family involvement - We obtained 
records from previous hospitalizations at ___ and ___ (see 
scanned documents) and collateral from patient's ex-wife. The 
patient's family is not currently in contact with him.
.
RISK ASSESSMENT AND PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his intrusive 
suicidal thoughts and plan to drown himself. His static factors 
noted at that time include chronic suicidal ideation, history of 
chronic mental illness, history of alcohol abuse, recent 
discharge from an inpatient psychiatric unit, male gender, 
Caucasian race, older age, divorced and widowed marital status, 
and chronic medical illness. The patient's modifiable risk 
factors included active substance use, active suicidal ideation 
with plan, lack of engagement with outpatient treatment, 
hopelessness, social withdrawal, limited social supports, no 
established outpatient treatment, and lack of purpose. The 
patient was discharged with several protective factors, 
including a help-seeking nature, sense of responsibility to his 
son, lack of active suicidal ideation. Overall, at time of 
discharge, patient was no longer at acutely elevated risk of 
self-harm due to decompensated mental illness.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Furosemide 60 mg PO DAILY 
4. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
5. Metoprolol Tartrate 25 mg PO BID 
6. Aspirin 325 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Lisinopril 40 mg PO DAILY 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing/dyspnea 

 
Discharge Medications:
1.  GlipiZIDE XL 5 mg PO DAILY DMT2 
RX *glipizide 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  Sertraline 150 mg PO QHS 
RX *sertraline 50 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
4.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
6.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 capsule(s) by 
mouth daily Disp #*30 Capsule Refills:*0 
7.  Furosemide 60 mg PO DAILY 
RX *furosemide 20 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
8.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
9.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
10.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
11.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
Neurocognitive disorder

 
Discharge Condition:
Appearance: Older man with longish blond-white hair, wearing
shorts and a T shirt. Has scabs on his legs.
Behavior: Sitting in room doing a crossword puzzle. Extremely
friendly and cooperative with interview, perhaps superficially.
Speech: Fluent ___, remarkable for advanced vocabulary.
Mood: "Safe."
Affect: Expansive, laughs when talking about difficult topics.
Thought Process: Some cognitive distortion around why his family
members don't take to him. Otherwise relatively linear.
Thought content: No current evidence of suicidal or homicidal
ideation, no evidence of auditory or visual hallucinations
Cognition: Appears grossly intact.
Insight: Poor. Does not understand why he no longer has
relationships with family members.
Judgment: Fair. Says he is willing to consider stopping 
drinking.
Says he is open to attending an AA meeting.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___